US05057525
To 1 part of a solution of 2 parts of thiophene in 40 parts of ethanol were added 12 parts of an acetaldehyde solution 10% in tetrahydrofuran, 6.3 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4piperidinyl)benzamide and 120 parts of methanol. The whole was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was suspended in a mixture of 2,2'-oxybispropane and petroleumether. The product was filtered off and crystallized from acetonitrile. The product was filtered off and dried, yielding a first fraction of 2 parts of cis-4-amino-5-chloro-N-(1-ethyl-3-methoxy-4-piperidinyl)-2-methoxybenzamide monohydrate; mp. 130.2° C. The mother liquor was concentrated. A second fraction was filtered off, yielding 2.89 parts of cis-4-amino-5-chloro-N-(1-ethyl-3-methoxy-4-piperidinyl)-2-methoxybenzamide monohydrate; mp. 150.5° C. (compound 146).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | cis-4-amino-5-chloro-N-(1-ethyl-3-methoxy-4-piperidinyl)-2-methoxybenzamide monohydrate | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC)OC)C=C1Cl)OC | InChI=1S/C16H24ClN3O3.H2O/c1-4-20-6-5-13(15(9-20)23-3)19-16(21)10-7-11(17)12(18)8-14(10)22-2;/h7-8,13,15H,4-6,9,18H2,1-3H3,(H,19,21);1H2/t13-,15+;/m0./s1
